US06337344B1
1-(3-Amidino-benzyl)-4-methoxy-1H-indole-2-carboxylic acid 4-hydroxy-benzyl amide hydrochloride
This compound was prepared from 1-(3-cyano-benzyl)-4-methoxy-1H-indole-2-carboxylic acid 4-hydroxy-benzyl amide (200 mg, 0.49 mmol), hydrogen chloride, and liquid ammonia analogously to example 19/3. Purification by reversed phase chromatography on RP18 material with water/ethanol/acetic acid 7:3:0.1 and lyophilization gave 179 mg of the desired product (79%). M.p. 202° C. (dec.). MS: 429.2 (100%; M+H+).

reactant | 1-(3-cyano-benzyl)-4-methoxy-1H-indole-2-carboxylic acid 4-hydroxy-benzyl amide | 0.49 mmol, 200 mg | OC1=CC=C(CNC(=O)C=2N(C3=CC=CC(=C3C2)OC)CC2=CC(=CC=C2)C#N)C=C1 | C25H21N3O3
reactant | hydrogen chloride | Cl | ClH
reactant | ammonia | N | H3N
product | 1-(3-Amidino-benzyl)-4-methoxy-1H-indole-2-carboxylic acid 4-hydroxy-benzyl amide hydrochloride | 179 mg, 79% | Cl.OC1=CC=C(CNC(=O)C=2N(C3=CC=CC(=C3C2)OC)CC2=CC(=CC=C2)C(N)=N)C=C1 | InChI=1S/C25H24N4O3.ClH/c1-32-23-7-3-6-21-20(23)13-22(25(31)28-14-16-8-10-19(30)11-9-16)29(21)15-17-4-2-5-18(12-17)24(26)27;/h2-13,30H,14-15H2,1H3,(H3,26,27)(H,28,31);1H
